Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Shortness of breath, chest tightness 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old with CKD stage III, hypertension, hyperlipidemia, 
and obesity presenting with chest tightness and shortness of 
breath and concerning EKG changes.  
Pt initially presented to his PCP ___ with complaint of chest 
tightness over the previous ___ weeks. His symptoms had 
initially been treated as a COPD exacerbation with prednisone 
and albuterol, however over the ___ days prior to seeing his PCP 
his symptoms of chest tightness worsened and included shortness 
of breath. During his PCP visit an EKG was performed and 
demonstrated frequent PVCs in a bigeminal pattern and an 
exercise stress echo was ordered. Pt returned to clinic to see 
PCP ___ and ___, and per report, EKG from ___ demonstrated 
new LBBB in the setting of continued chest tightness. Given 
concern for possible CAD and ACS, pt was referred to the ED for 
evaluation.  
In the ED initial vitals were: 98.1 80 160/76 16 95% RA  
EKG ___ 18:48: SR at 85 bpm, ventricular bigeminy  
Labs/studies notable for: WBC 10, H/H 14.8/44, plts 202, Na 137, 
BUN/Cr ___ from baseline Cr 1.2-1.4, D-Dimer 636, troponin 
<0.01 x 2.  
Pt underwent CTA Chest that did not demonstrate PE, but was 
notable for upper lobe emphysema.  
Pt had a CXR that did not demonstrate an acute intrathoracic 
process.  
Pt received 500cc of NS and BMP was redrawn demonstrating Na 
135, K 4.3, BUN/Cr ___, and Mg 1.8.  
Patient also received Aspirin 324mg PO x 1.  
Pt was initially going to be ruled out for ACS with two sets of 
troponins and then undergo an exercise stress tests in the AM, 
but he developed bradycardia to the ___ with ventricular 
bigeminy and it was determined in conjuction with Dr. ___ 
Cardiology that admission to ___ for monitoring was warranted.  

Vitals on transfer: 97.4 63 139/49 18 97% RA  
 
On the floor, pt reports that he still feels somewhat short of 
breath. He reports DOE with climbing stairs and reports 
orthopnea. He denies PND. He states that he had a similar 
constellation of symptoms last year when he developed a URI that 
lingered for multiple weeks.  

 
Past Medical History:
Hypercholesteremia  
 COLONIC POLYP  
 Esophageal reflux  
 SUBSTANCE ABUSE - IN REMISSION  
 HELICOBACTER PYLORI INFECTION  
 Hypertension, essential, benign  
 ASTHMA, UNSPEC  
 Obesity, morbid  
 Tear meniscus knee  
 Colonic adenoma  
 Osteoarthritis of right knee  
 S/P TKR (total knee replacement) Right ___  
 PROGRAM - Asthma Adult(Not Dx, for prob list only)  
 S/P THR (total hip replacement) Left ___  
 Calculus of ureter  
 PVC's (premature ventricular contractions)  
 LBBB (left bundle branch block)  
 Chronic kidney disease (CKD) stage G3a/A1, moderately decreased 
glomerular filtration rate (GFR) between 45-59 mL/min/1.73 
square meter and albuminuria creatinine ratio less than 30 mg/g  


 
Social History:
___
Family History:
Father - ___  
Mother - No significant medical history  
Sister - ___ cancer  

 
Physical Exam:
Admission Physical Exam: 
========================
VS: 97.8 158/64 48 21 96% on RA, Wt 149.6  
GENERAL: NAD, AAOx3  
HEENT: NCAT. Sclera anicteric.  
NECK: Supple with difficult to assess JVP ___ habitus.  
CARDIAC: Distant heart sounds, S1 S2, regularly irregular  
LUNGS: Scattered end expiratory wheezes, no crackles  
ABDOMEN: Obese, soft, NTND. No HSM or tenderness.  
EXTREMITIES: No edema  
SKIN: No stasis dermatitis  
PULSES: Distal pulses palpable and symmetric  

Discharge Physical Exam: 
========================
VS: T=97.8 BP=158/64 HR=48 (77 on tele) RR=21 O2 sat= 96% RA   
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI.   
NECK: Supple with no elevated JVP.   
CARDIAC: Regularly irregular HR. 
LUNGS: Decreased breath sounds throughout, no wheezing.  
ABDOMEN: Soft, NTND. 
EXTREMITIES: No pedal edema. 
SKIN: No stasis dermatitis, ulcers.  
PULSES:  DP pulses intact. 
NEURO: ___ strength in UE and ___. CN II-XII intact. 

 
Pertinent Results:
Admission Labs: 
===============
___ 07:02PM BLOOD WBC-10.0 RBC-4.68 Hgb-14.8 Hct-44.0 
MCV-94 MCH-31.6 MCHC-33.6 RDW-13.4 RDWSD-45.4 Plt ___
___ 07:02PM BLOOD Neuts-57.2 ___ Monos-13.4* 
Eos-2.4 Baso-0.9 Im ___ AbsNeut-5.71 AbsLymp-2.55 
AbsMono-1.34* AbsEos-0.24 AbsBaso-0.09*
___ 07:02PM BLOOD Plt ___
___ 07:02PM BLOOD Glucose-116* UreaN-18 Creat-1.3* Na-137 
K-5.0 Cl-99 HCO3-27 AnGap-16
___ 07:02PM BLOOD cTropnT-<0.01
___ 07:02PM BLOOD D-Dimer-636*

Discharge Labs: 
===============
___ 06:40AM BLOOD WBC-8.7 RBC-4.72 Hgb-14.7 Hct-44.3 MCV-94 
MCH-31.1 MCHC-33.2 RDW-13.3 RDWSD-45.5 Plt ___
___ 06:40AM BLOOD Plt ___
___ 06:40AM BLOOD Glucose-131* UreaN-14 Creat-1.2 Na-138 
K-4.5 Cl-99 HCO3-27 AnGap-17
___ 01:10AM BLOOD Glucose-147* UreaN-16 Creat-1.2 Na-135 
K-4.3 Cl-100 HCO3-25 AnGap-14
___ 06:40AM BLOOD proBNP-194
___ 06:40AM BLOOD Calcium-9.4 Phos-3.0 Mg-2.5
___ 01:10AM BLOOD cTropnT-<0.01

Radiology: 
==========
___ CXR: 
No acute intrathoracic process.

___ CTA: 
1. No evidence of pulmonary embolism or aortic abnormality. 
2. Mild upper lobe predominant emphysema. 

Testing: 
========
___ Cardiac stress test: 
No ischemic EKG changes or anginal type symptoms at a high 
cardiac demand and average functional capacity. Baseline 
hypertension. 
Exaggerated HR response to exercise. Dr. ___ for study

EKGs:
=====
ECG Study Date of ___  6:48:52 ___ 
Sinus rhythm. Ventricular bigeminy. Non-specific repolarization 
abnormalities. No previous tracing available for comparison.  
TRACING #1 
R85 PR169 QRS134 QT410 QTc453/488 

ECG Study Date of ___  12:02:38 AM 
Sinus rhythm. Ventricular bigeminy. Non-specific repolarization 
abnormalities. Compared to the previous tracing no diagnostic 
change. 
TRACING #2 
R82 PR167 QRS136 QT441 QTc___/___ 

ECG Study Date of ___  1:11:39 AM 
Sinus rhythm. Ventricular bigeminy. Non-specific repolarization 
abnormalities. Compared to the previous tracing no diagnostic 
change. 
TRACING #3 
R81 PR___ QRS___ QT442 ___/___ 

Microbiology: 
=============
NONE 

 

 
Brief Hospital Course:
___ year old with CKD stage III, hypertension, hyperlipidemia, 
and obesity presenting with chest tightness and shortness of 
breath, found to have negative troponins x 2 with bradycardia 
and ventricular bigeminy on EKG.  

ACUTE ISSUES: 
=============
#Chest tightness: Patient with exertional chest tightness per 
atrium notes. Patient found to have negative troponins x 2 with 
bradycardia and ventricular bigeminy on EKG.  CXR and CTA were 
negative for acute process, including PE, and BNP was normal. 
Patient underwent stress testing. No ischemic EKG changes or 
anginal type symptoms at a high cardiac demand and average 
functional capacity were noted. Baseline hypertension was noted 
as well as an exaggerated HR response to exercise. 

#Dizziness: Was felt to be secondary to frequent bigeminy due to 
retrograde activation resulting in low perfusion. Beta blockers 
can paradoxically improve bradycardia by helping suppress PVCs; 
thus sotolol was considered but was not used due to prolonged 
QTc, and metoprolol could not be used due to COPD/nebulizer use. 
Home hydrochlorothiazide was also stopped and lisinopril was 
increased to minimize risk of hypokalemia potentiating 
ventricular ectopy

#SOB, wheezing: Negative EKG and troponins x2, CXR without acute 
process, and CTA without evidence of pulmonary embolus. Dyspnea 
was attributed to an asthma/COPD exacerbation. Although last 
PFTs in ___ showed no evidence of COPD, CTA chest showed upper 
lobe emphysema and breath sounds noted to be decreased on exam. 
Patient treated with duonebs Q6hrs, prednisone 40mg PO x 5 days, 
and azithromycin 500mg PO daily x 5 days. 

#HTN: Lisinopril increased to 40mg and started on amlodipine 
5mg. Home hydrochlorothiazide was also stopped and lisinopril 
was increased to minimize risk of hypokalemia potentiating 
ventricular ectopy. Home diltiazem discontinued. 
 
CHRONIC ISSUES: 
===============
# Chronic pain: Continue home gabapentin QHS  
# GERD: Continue home omeprazole  

TRANSITIONAL ISSUES:
===================
- needs electrolytes checked on ___
- started on amlodipine 5mg
- stopped diltiazem and HCTZ due to ventricular bigeminy
- increased lisinopril from 20 to 40mg
- needs TTE as an outpatient
- further discussion re: antiarrhythmics, ___ of Hearts as an 
outpatient
- discharged on 40mg PO prednisone and 250mg azithromycin to 
complete 5 day course finishing on ___. Consider repeating 
PFTs as last performed in ___. 

#Code status: Full 
#Contact: ___ (wife) ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. lisinopril-hydrochlorothiazide ___ mg oral DAILY 
2. Diltiazem Extended-Release 240 mg PO DAILY 
3. Gabapentin 200 mg PO QHS 
4. Naproxen 500 mg PO Q12H:PRN Pain 
5. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
6. Ketoconazole 2%  1 Appl TP BID 
7. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN Wheezing 
8. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
9. Albuterol Inhaler 2 PUFF IH Q6H:PRN Wheezing 
10. Omeprazole 20 mg PO BID 

 
Discharge Medications:
1. Gabapentin 200 mg PO QHS 
2. Omeprazole 20 mg PO BID 
3. Amlodipine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
4. Lisinopril 40 mg PO DAILY 
RX *lisinopril 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
5. PredniSONE 40 mg PO DAILY Duration: 5 Days 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*8 Tablet 
Refills:*0
6. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN Wheezing 
7. Albuterol Inhaler 2 PUFF IH Q6H:PRN Wheezing 
8. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
9. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
10. Ketoconazole 2%  1 Appl TP BID 
11. Naproxen 500 mg PO Q12H:PRN Pain 
12. Azithromycin 250 mg PO Q24H Duration: 4 Days 
RX *azithromycin 250 mg 1 tablet(s) by mouth daily Disp #*4 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
COPD exacerbation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came in with shortness of breath. This may have been due to 
your asthma/COPD. Sometimes people become short of breath when 
their heart is not getting enough blood, but you had a stress 
test which was normal. We are sending you home with prednisone 
and an antibiotic called azithromycin to treat your COPD. You 
should take these medications for four days starting tomorrow 
(finish on ___.

You also had an abnormal heart rhythm, which is probably why you 
felt dizzy. You should see Dr. ___ at ___ on ___ to 
discuss starting a medication to treat this rhythm. His office 
will call you with an appointment.

We also made some changes to your medications. You should stop 
diltiazem and lisinopril-hydrochlorothiazide. We are starting 
you on a new medication called amlodipine, which you should take 
every morning. We also want you to take lisinopril by itself, 
and we are increasing your dose from 20 to 40mg.

It was a pleasure taking care of you.
 
Followup Instructions:
___